US05763700
1-(2-Fluoro-2-(methoxycarbonyl)ethenyl)-1-(3,4-methylenedioxyphenyl)cyclopropane
The method of Example 1 was repeated using zinc powder (2.94 g), copper (I) chloride (0.45 g) molecular sieve 4A (3 g), tetrahydrofuran (54 ml), 1-formyl-1-(3,4-methylenedioxyphenylcyclopropane (3.09 g), acetic anhydride (1.5 ml) and methyl dichlorofluoroacetate (2.36 g) to yield the title compound (2.2 g, 51%).

reactant | 3,4-methylenedioxyphenylcyclopropane | 3.09 g | C1OC=2C=C(C=CC2O1)C1CC1 | C10H10O2
reactant | acetic anhydride | 1.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | methyl dichlorofluoroacetate | 2.36 g | ClC(C(=O)OC)(F)Cl | C3H3Cl2FO2
catalyst | zinc | 2.94 g | [Zn] | Zn
catalyst | copper (I) chloride | 0.45 g | [Cu]Cl
solvent | tetrahydrofuran | 54 ml | O1CCCC1 | C4H8O
product | 1-(2-Fluoro-2-(methoxycarbonyl)ethenyl)-1-(3,4-methylenedioxyphenyl)cyclopropane | 2.2 g, 51% | FC(=CC1(CC1)C1=CC2=C(C=C1)OCO2)C(=O)OC | C14H13FO4
